US04686224
L1. 1-ethyl-5-cyclopropylcarbonyloxindole
In a manner similar to Preparation J1., 10 g. (62 mmoles) of 1-ethyloxindole, 7.2 ml. (78.8 mmoles) of cyclopropylcarbonyl chloride and 51 g. (380 mmoles) of aluminum chloride in 200 ml. of carbon disulfide gave 3.75 of the desired product.

reactant | 1-ethyloxindole | 62 mmoles | C(C)N1C(CC2=CC=CC=C12)=O | C10H11NO
reactant | cyclopropylcarbonyl chloride | 78.8 mmoles | C1(CC1)C(=O)Cl | C4H5ClO
reactant | aluminum chloride | 380 mmoles | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | C(=S)=S | CS2
product | 1-ethyl-5-cyclopropylcarbonyloxindole | C(C)N1C(CC2=CC(=CC=C12)C(=O)C1CC1)=O | C14H15NO2
